US08193192B2
To a mixture of 4-(3-methyl-5-nitro-pyridin-2-yloxy)-benzoic acid methyl ester (0.43 g, 1.49 mmol) from the previous step and zinc dust (0.932 g, 14.2 mmol) in methanol (15 ml) was added dropwise acetic acid (0.32 ml, 5.12 mmol). The mixture was stirred for 1 h at room temperature and filtered through a thin silica pad to remove inorganics. The filtrate was concentrated at reduced pressure to dryness to provide methyl 4-(5-amino-3-methylpyridin-2-yloxy)benzoate (0.346 g, 90% yield).

reactant | 4-(3-methyl-5-nitro-pyridin-2-yloxy)-benzoic acid methyl ester | 1.49 mmol, 0.43 g | COC(C1=CC=C(C=C1)OC1=NC=C(C=C1C)[N+](=O)[O-])=O | C14H12N2O5
reactant | acetic acid | 5.12 mmol, 0.32 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 15 ml | CO | CH4O
catalyst | zinc | 14.2 mmol, 0.932 g | [Zn] | Zn
product | methyl 4-(5-amino-3-methylpyridin-2-yloxy)benzoate | 0.346 g, 90% yield | NC=1C=C(C(=NC1)OC1=CC=C(C(=O)OC)C=C1)C | C14H14N2O3
